US05430022
Boc-D-Trp(CHO)-OH (10.0 g), HCl.H-βAla-OMe (4.41 g) HOBt (4.47 g), WSCD (5.14 g) and DMF (100 ml) were reacted in a similar manner to that of Preparation 1-1) to give Boc-D-Trp(CHO)-βAla-OMe (8.77 g). mp: 134°-135° C. Rf: 0.54 (CHCl3 :MeOH=9:1)

reactant | Boc-D-Trp(CHO)-OH | 10.0 g | N([C@H](CC1=CN(C2=CC=CC=C12)C=O)C(=O)O)C(=O)OC(C)(C)C | C17H20N2O5
reactant | HCl | Cl | ClH
reactant | H-βAla-OMe | 4.41 g | NCCC(=O)OC | C4H9NO2
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | Boc-D-Trp(CHO)-βAla-OMe | 8.77 g | N([C@H](CC1=CN(C2=CC=CC=C12)C=O)C(=O)NCCC(=O)OC)C(=O)OC(C)(C)C | C21H27N3O6
